US04918073
(a) 4-Tritylpiperazine-2-carboxamide
1.29 g (10 mmol) of piperazine-2-carboxamide were dissolved in 20 ml of absolute methylene chloride, 1.01 g (10 mmol) of triethylamine were added, a solution of 2.79 g (10 mmol) of triphenylmethyl chloride in 20 ml of absolute methylene chloride was added dropwise and the mixture was subsequently stirred at room temperature for 5 hours. The reaction solution was washed twice with water, dried and concentrated and the crude product was purified by flash chromatography on silica gel with CH2Cl2 /CH3OH 95:5.

reactant | piperazine-2-carboxamide | 10 mmol, 1.29 g | N1C(CNCC1)C(=O)N | C5H11N3O
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 10 mmol, 2.79 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Tritylpiperazine-2-carboxamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(NCC1)C(=O)N | C24H25N3O
